US09193707B2
1. Synthesis of 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]benzoic acid
Into a 250-mL 3-necked round-bottom flask, was placed sodium carbonate (3.7 g, 34.91 mmol, 0.54 equiv), water (66 mL), 4-(aminomethyl)benzoic acid (9.7 g, 64.17 mmol, 1.00 equiv) and ethyl 1,3-dioxo-2,3-dihydro-1H-isoindole-2-carboxylate (14.6 g, 66.61 mmol, 1.04 equiv). The resulting solution was stirred for 3 h at 25° C. The pH value of the solution was adjusted to 4 with hydrogen chloride (1 mol/L). The solids were collected by filtration. The filter cake was washed with 1×100 mL of water. This resulted in 15.7 g (87%) of 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]benzoic acid as a white solid. MS (ESI) m/z 282 ([M+H]+).

reactant | sodium carbonate | 34.91 mmol, 3.7 g, 0.54 equiv | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(aminomethyl)benzoic acid | 64.17 mmol, 9.7 g, 1.00 equiv | NCC1=CC=C(C(=O)O)C=C1 | C8H9NO2
reactant | ethyl 1,3-dioxo-2,3-dihydro-1H-isoindole-2-carboxylate | 66.61 mmol, 14.6 g, 1.04 equiv | O=C1N(C(C2=CC=CC=C12)=O)C(=O)OCC | C11H9NO4
reactant | hydrogen chloride | 1 mol/L | Cl | ClH
solvent | water | 66 mL | O | H2O
product | 4-[(1,3-dioxo-2,3-dihydro-1H-isoindol-2-yl)methyl]benzoic acid | O=C1N(C(C2=CC=CC=C12)=O)CC1=CC=C(C(=O)O)C=C1 | C16H11NO4
